US04994460
1-Cyclohexyl-1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanol
A cold (15° C.) solution of 1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanone (2.1 g, 6.1 mmol) in dry tetrahydrofuran (25 mL) kept under argon atmosphere was treated dropwise (15 min) with a solution of cyclohexylmagnesium chloride in ether (2.0M, 3.18 mL, 6.36 mmol). The cooling bath was removed and reaction mixture after being stirred at 23° C. for 2 h was treated dropwise (15 min) with HCl (2N, 3.5 mL), stirred for 15 min and diluted with CHCl3 (50 mL). The organic phase was basified with NaHCO3 and separated. Aqueous phase was extracted with CHCl3 (15 mL). The organic extracts were dried (MgSO4) and concentrated in vacuo to a sticky solid which was purified on silica gel column using a mixture of 40-100% AcOEt in CHCl3 as eluting solvent. The first group of fractions was concentrated in vacuo to give the carbinol as a solid, 1.1 g, 42%. The second group of fractions gave, after evaporation of solvent, the initial ketone 1.0 g, 48%. The carbinol was recrystallized from EtOH to give an analytical sample, mp 53°-9° C.

reactant | 1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanone | 6.1 mmol, 2.1 g | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=NC=C(C=N1)F)=O | C18H20F2N4O
reactant | cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
reactant | ether | 6.36 mmol, 2.0M, 3.18 mL | CCOCC | C4H10O
reactant | HCl | 2N, 3.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Cyclohexyl-1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanol | C1(CCCCC1)C(CCCN1CCN(CC1)C1=NC=C(C=N1)F)(O)C1=CC=C(C=C1)F | C24H32F2N4O
